US07834197B2
Preparation of N-ethoxymethyl-N-propylpyrrolidinium chloride
A 36.22 g quantity of N-propylpyrrolidine was dissolved in 200 g of dehydrated acetone (up to 0.1% in water content), followed by replacement with nitrogen. To the solution was added dropwise 30.25 g of chloromethyl ethyl ether (reagent, product of Tokyo Kasei Co., Ltd. as purified by distillation) at 5° C. over a period of 1 hour. The mixture was stirred at 5° C. for 5 hours, whereby the reaction was terminated. The reaction mixture was filtered, washed with 100 g of acetone and dried in a vacuum, giving 53.30 g of a white solid product.

reactant | N-propylpyrrolidine | C(CC)N1CCCC1 | C7H15N
reactant | chloromethyl ethyl ether | 30.25 g | C(C)OCCl | C3H7ClO
solvent | acetone | 200 g | CC(=O)C | C3H6O
solvent | water | O | H2O
product | N-ethoxymethyl-N-propylpyrrolidinium chloride | 53.30 g | [Cl-].C(C)OC[N+]1(CCCC1)CCC | InChI=1S/C10H22NO.ClH/c1-3-7-11(10-12-4-2)8-5-6-9-11;/h3-10H2,1-2H3;1H/q+1;/p-1
